US04379032
Synthesis of (1S, 5R)-6-(1-benzyloxycarbonyl-2-methyl-1-propenyl)-3-benzyl-4-oxa-2,6-diazabicyclo-[3.2.0]hept-2-en-7-one
A 6.2 mg quantity of lithium chloride was dissolved in a mixture of 2 ml of methanol and 0.5 ml of tert-butyl alcohol. To the solution was added 62.4 mg of benzyl ester of penicillin G to prepare an electrolyte. The electrolyte was subjected to electrolysis under the same conditions as in Example 1. The isolation and purification gives 50 mg of contemplated compound in 88% yield.

reactant | lithium chloride | [Cl-].[Li+]
reactant | penicillin G | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C | C16H18N2O4S
solvent | methanol | 2 ml | CO | CH4O
solvent | tert-butyl alcohol | 0.5 ml | C(C)(C)(C)O | C4H10O
product | (1S, 5R)-6-(1-benzyloxycarbonyl-2-methyl-1-propenyl)-3-benzyl-4-oxa-2,6-diazabicyclo-[3.2.0]hept-2-en-7-one | 50 mg, 88% yield | C(C1=CC=CC=C1)OC(=O)C(=C(C)C)N1[C@@H]2OC(=N[C@@H]2C1=O)CC1=CC=CC=C1 | C23H22N2O4
